US06750226B2
Preparation of Oxothien-2-yl-acetic Acid 1-azabicyclo[2.2.2]oct-3(R)-yl Ester
Oxalyl chloride (1.34 ml, 0.0154 mol) was added to a solution of oxothien-2-yl-acetic acid (2 g, 0,0128 mol) and dimethylformamide (one drop) in 30 ml of chloroform (etanol free) at 01C. The mixture was stirred and allowed to warm at room temperature. After one hour the solvent was evaporated. The residue was dissolved in chloroform and evaporated again. This procedure was repeated two times. The product obtained was disolved in CHCl3 (30 ml) and a solution of 3(R)-quinuclidinol (1.95 g, 0.0154 mol) in CHCl3 (30 ml) was added to this at 01C. The mixture was stirred and allowed to warm at room temperature. After 1.5 h at r.t., the mixture was washed with 10% aqueous potassium carbonate, then with water, dried over Na2SO4 and evaporated to give 3.14 g (92.6%) of the title compound as a yellow oil. 1H-NMR (CDCl3): δ 1.40-1.50 (m, 1H), 1.50-1.70 (m, 1H), 1.70-1.80 (m, 1H), 1.90-2.0 (m, 1H), 2.15 (m, 1H), 2.70-3.05 (m, 5H), 3.30-3.40 (m, 1H), 5.05 (m, 1H), 7.20 (m, 1H), 7.85 (m, 1H), 8.10 (m, 1H).

reactant | Oxalyl chloride | 0.0154 mol, 1.34 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxothien-2-yl-acetic acid | 0,0128 mol, 2 g | O=C(C(=O)O)C=1SC=CC1 | C6H4O3S
reactant | 3(R)-quinuclidinol | 0.0154 mol, 1.95 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | Oxothien-2-yl-acetic Acid 1-azabicyclo[2.2.2]oct-3(R)-yl Ester | 3.14 g, 92.6% | N12C[C@@H](C(CC1)CC2)OC(C(C=2SC=CC2)=O)=O | C13H15NO3S
